### PR TITLE
feat: more results on groups, rings, and fields

### PR DESCRIPTION
**Pull request by vihdzp**
We prove miscellaneous results on groups, rings, and fields of nimbers, including a generalization of `IsRing.mul_eq_of_lt'` which will be used to prove the fourth simplest extension theorem.

### CODE REVIEW

File: CombinatorialGames/Nimber/SimplestExtension/Basic.lean [hunk 1]
```diff
@@ -192,6 +192,15 @@ this definition. -/
...
   add_lt ⦃y z⦄ (hy : y < x) (hz : z < x) : y + z < x
 
+theorem IsGroup.sum_lt {x : Nimber} (h : IsGroup x) (hx₀ : x ≠ 0) {ι} {s : Finset ι}
+    {f : ι → Nimber} (hs : ∀ y ∈ s, f y < x) : s.sum f < x := by
+  classical
+  induction s using Finset.induction with
+  | empty => simp_all [Nimber.pos_iff_ne_zero]
+  | insert a s ha IH =>
+    rw [Finset.sum_insert ha]
+    apply h.add_lt <;> aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Nimber/SimplestExtension/Basic.lean]:
```suggestion
    apply h.add_lt <;> simp_all
```
